US05057524
4-[Bis(4-fluorophenyl)hydroxymethyl]-1-piperidineacetic acid hemihydrate
To a stirred solution of 5.0 g (0.013 mole) of 4-[bis(4-fluorophenyl)hydroxymethyl]-1-piperidineacetic acid ethyl ester in 100 mL of 95% ethanol was added a solution of 10.9 g (0.130 mole) of sodium bicarbonate in 150 mL of water and the mixture was heated at reflux for 16 h. The solution was cooled and concentrated under reduced pressure. The residue was partitioned between ethyl ether and water (200 mL each). The layers were separated, and the aqueous layer was further extracted with two 100 mL portions of ethyl ether. The aqueous layer pH was adjusted to 6 with glacial acetic acid, whereupon a solid precipitate began to form. After standing for 16 h, the crystals were collected by filtration, washed with water and recrystallized from 2-propanol to yield 1.7 g (36%) of white solid, mp 198°-200° C.

reactant | 4-[bis(4-fluorophenyl)hydroxymethyl]-1-piperidineacetic acid ethyl ester | 0.013 mole, 5.0 g | C(C)OC(CN1CCC(CC1)C(O)(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)=O | C22H25F2NO3
reactant | sodium bicarbonate | 0.130 mole, 10.9 g | C([O-])(O)=O.[Na+]
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | water | 150 mL | O | H2O
product | 4-[Bis(4-fluorophenyl)hydroxymethyl]-1-piperidineacetic acid hemihydrate | 1.7 g, 36% | O.FC1=CC=C(C=C1)C(C1CCN(CC1)CC(=O)O)(O)C1=CC=C(C=C1)F.FC1=CC=C(C=C1)C(C1=CC=C(C=C1)F)(O)C1CCN(CC1)CC(=O)O | InChI=1S/2C20H21F2NO3.H2O/c2*21-17-5-1-14(2-6-17)20(26,15-3-7-18(22)8-4-15)16-9-11-23(12-10-16)13-19(24)25;/h2*1-8,16,26H,9-13H2,(H,24,25);1H2
